US08686147B2
8a) Ethyl 4-(2-chloroethyl)benzenecarboxylate
To a suspension of 4-(2-chloroethyl)benzenecarboxylic acid (52.5 mmol; 9.7 g) in anhydrous ethanol (57 ml) was added concentrated sulfuric acid (3.0 ml). The mixture was stirred at reflux for 2 hours 30 minutes. After cooling, the ethanol was removed under reduced pressure and the crude product obtained was dissolved in chloroform (200 ml). The organic phase was washed first with 1N NaOH (100 ml) and then with saturated NaCl solution (3×100 ml). After drying over anhydrous sodium sulfate and removing the solvent under reduced pressure, 12.0 g (100%) of pure product were thus obtained as a pale yellow oil.

reactant | 4-(2-chloroethyl)benzenecarboxylic acid | 52.5 mmol, 9.7 g | ClCCC1=CC=C(C=C1)C(=O)O | C9H9ClO2
reactant | sulfuric acid | 3.0 ml | S(O)(O)(=O)=O | H2O4S
reactant | ethanol | 57 ml | C(C)O | C2H6O
product | Ethyl 4-(2-chloroethyl)benzenecarboxylate | ClCCC1=CC=C(C=C1)C(=O)OCC | C11H13ClO2
